US07709682B2
{4-[2-Ethoxy-3-(4-trifluoromethyl-phenoxy)-propylsulfanyl]-2-methyl-phenoxy}-acetic acid L-Lysine di-hydrate salt
A 4 L Erlenmeyer flask equipped with a magnetic stir bar and nitrogen outlet was charged with {4-[2-ethoxy-3-(4-trifluoromethyl-phenoxy)-propylsulfanyl]-2-methyl-phenoxy}-acetic acid (502 g, 1.05 mol 93% purity) and methanol (2.3 L). The flask was warmed on a hot plate with stirring and then charged with L-Lysine (153.5 g, 1.05 mmol). The reaction mixture was diluted with water (112.5 mL, 6.25 mol). The reaction mixture was stirred and heated until the solids were dissolved. Upon reaching reflux the light yellow solution was hot filtered through a pad of Celite and the resulting light yellow solution was allowed to slowly cool to room temperature and then held at room temperature, with stirring for 3 days. The solid was isolated by vacuum filtration, the filter pad was rinsed with 1% (v/v) H2O in methanol (˜400 mL). The resulting solid was slurried in methanol (1 L) then filtered to yield the title compound as a white solid (lysine salt; di-hydrate).

reactant | {4-[2-ethoxy-3-(4-trifluoromethyl-phenoxy)-propylsulfanyl]-2-methyl-phenoxy}-acetic acid | 1.05 mol, 502 g | C(C)OC(CSC1=CC(=C(OCC(=O)O)C=C1)C)COC1=CC=C(C=C1)C(F)(F)F | C21H23F3O5S
reactant | L-Lysine | 1.05 mmol, 153.5 g | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | water | 6.25 mol, 112.5 mL | O | H2O
solvent | methanol | 2.3 L | CO | CH4O
product | {4-[2-Ethoxy-3-(4-trifluoromethyl-phenoxy)-propylsulfanyl]-2-methyl-phenoxy}-acetic acid L-Lysine di-hydrate | O.O.N[C@@H](CCCCN)C(=O)O.C(C)OC(CSC1=CC(=C(OCC(=O)O)C=C1)C)COC1=CC=C(C=C1)C(F)(F)F | InChI=1S/C21H23F3O5S.C6H14N2O2.2H2O/c1-3-27-17(11-28-16-6-4-15(5-7-16)21(22,23)24)13-30-18-8-9-19(14(2)10-18)29-12-20(25)26;7-4-2-1-3-5(8)6(9)10;;/h4-10,17H,3,11-13H2,1-2H3,(H,25,26);5H,1-4,7-8H2,(H,9,10);2*1H2/t;5-;;/m.0../s1
